US07402684B2
(R)-2-[(4-Benzyl-phenylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-benzyl aniline (200 mg, 1.1 mmol) in dichloroethane (1.5 mL) was added a solution of N-(t-butoxycarbonyl)-D-prolinal (239 mg, 1.2 mmol) in dichloroethane (1.5 mL) at 0-5° C. Sodium triacetoxyborohydride (393 mg, 1.85 mmol) was added to the above solution. Acetic acid (65 mg, 1.1 mmol) in dichloroethane (1 mL) was added dropwise, over a period of 5 min at 0-5° C. The reaction mixture was stirred at 0-10° C. for 3 h. The mixture was diluted with saturated aq NaHCO3 and extracted with dichloromethane. Organic layer was dried over anhy. MgSO4 and the solvent was removed in vacuo to obtain the crude mixture, which was purified by silica gel flash chromatography to obtain the title product (340 mg, 85%).

reactant | 4-benzyl aniline | 1.1 mmol, 200 mg | C(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C13H13N
reactant | N-(t-butoxycarbonyl)-D-prolinal | 1.2 mmol, 239 mg | C(C)(C)(C)OC(=O)N1[C@@H](C=O)CCC1 | C10H17NO3
reactant | Sodium triacetoxyborohydride | 1.85 mmol, 393 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetic acid | 1.1 mmol, 65 mg | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (R)-2-[(4-Benzyl-phenylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 340 mg, 85% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNC1=CC=C(C=C1)CC1=CC=CC=C1 | C23H30N2O2
